USRE042412E1
3-[4-(4-amino-5-chloro-2-methoxy-benzoylamino)-3-methoxy-piperidin-1-yl]-propionic Acid Methyl Ester
A solution of 640 mg of 3-[4-(4-Amino-5-chloro-2-methoxy-benzoylamino)-3-methoxy-piperidin-1-yl]-propionic acid in 20 ml methanol was treated with 1 ml sulfuric acid and heated at reflux under argon for 3 hr. The mixture was diluted with sodium carbonate solution, extracted into dichloromethane dried over sodium sulfate, and concentrated in vacuo to provide 600 mg of crude ester as an oil. Trituration with methanol/ethyl acetate afforded a crystalline solid. The following compounds can be similarly prepared: 3-[4-(4-amino-5-chloro-2-methoxy-benzoylamino)-3-methoxy-piperidin-1-yl]-propionic acid ethyl ester 3-[4-(4-amino-5-chloro-2-methoxy-benzoylamino)-3-methoxy-piperidin-1-yl]-propionic acid isopropyl ester 3-[4-(4-amino-5-chloro-2-methoxy-benzoylamino)-3-methoxy-piperidin-1-yl]-propionic acid 2-methoxy-ethyl ester 3-[4-(4-amino-5-chloro-2-methoxy-benzoylamino)-3-methoxy-piperidin-1-yl]-propionic acid cyclohexyl ester 3-[4-(4-amino-5-chloro-2-methoxy-benzoylamino)-3-methoxy-piperidin-1-yl]-2-methyl-propionic acid ethyl ester 3-[4-(4-amino-5-chloro-2-methoxy-benzoylamino)-3-methoxy-piperidin-1-yl]-2-methyl-propionic acid isopropyl ester 3-[4-(4-amino-5-chloro-2-methoxy-benzoylamino)-3-methoxy-piperidin-1-yl]-2-methyl-propionic acid 2-methoxy-ethyl ester 3-[4-(4-amino-5-chloro-2-methoxy-benzoylamino)-3-methoxy-piperidin-1-yl]-2-methyl-propionic acid cyclohexyl ester

reactant | 3-[4-(4-amino-5-chloro-2-methoxy-benzoylamino)-3-methoxy-piperidin-1-yl]-propionic acid ethyl ester 3-[4-(4-amino-5-chloro-2-methoxy-benzoylamino)-3-methoxy-piperidin-1-yl]-propionic acid isopropyl ester 3-[4-(4-amino-5-chloro-2-methoxy-benzoylamino)-3-methoxy-piperidin-1-yl]-propionic acid 2-methoxy-ethyl ester 3-[4-(4-amino-5-chloro-2-methoxy-benzoylamino)-3-methoxy-piperidin-1-yl]-propionic acid cyclohexyl ester 3-[4-(4-amino-5-chloro-2-methoxy-benzoylamino)-3-methoxy-piperidin-1-yl]-2-methyl-propionic acid ethyl ester 3-[4-(4-amino-5-chloro-2-methoxy-benzoylamino)-3-methoxy-piperidin-1-yl]-2-methyl-propionic acid isopropyl ester 3-[4-(4-amino-5-chloro-2-methoxy-benzoylamino)-3-methoxy-piperidin-1-yl]-2-methyl-propionic acid 2-methoxy-ethyl ester 3-[4-(4-amino-5-chloro-2-methoxy-benzoylamino)-3-methoxy-piperidin-1-yl]-2-methyl-propionic acid cyclohexyl ester | C1(CCCCC1)OC(C(CN1CC(C(CC1)NC(C1=C(C=C(C(=C1)Cl)N)OC)=O)OC)C)=O.COCCOC(C(CN1CC(C(CC1)NC(C1=C(C=C(C(=C1)Cl)N)OC)=O)OC)C)=O.C(C)(C)OC(C(CN1CC(C(CC1)NC(C1=C(C=C(C(=C1)Cl)N)OC)=O)OC)C)=O.C(C)OC(C(CN1CC(C(CC1)NC(C1=C(C=C(C(=C1)Cl)N)OC)=O)OC)C)=O.C1(CCCCC1)OC(CCN1CC(C(CC1)NC(C1=C(C=C(C(=C1)Cl)N)OC)=O)OC)=O.COCCOC(CCN1CC(C(CC1)NC(C1=C(C=C(C(=C1)Cl)N)OC)=O)OC)=O.C(C)(C)OC(CCN1CC(C(CC1)NC(C1=C(C=C(C(=C1)Cl)N)OC)=O)OC)=O.C(C)OC(CCN1CC(C(CC1)NC(C1=C(C=C(C(=C1)Cl)N)OC)=O)OC)=O
solvent | methanol ethyl acetate | CO.C(C)(=O)OCC
product | 3-[4-(4-amino-5-chloro-2-methoxy-benzoylamino)-3-methoxy-piperidin-1-yl]-propionic Acid Methyl Ester | COC(CCN1CC(C(CC1)NC(C1=C(C=C(C(=C1)Cl)N)OC)=O)OC)=O | C18H26ClN3O5
